US04547501
4-Chloro-1-ethyl-8-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline (520 mg., 0.002 mole) and 673 mg. (0.008 mole) of diethylamine in 10 ml. of N,N-dimethylformamide were stirred at room temperature overnight. The reaction mixture was poured over ice and the precipitate was separated by filtration, washed with water and air dried. Recrystallization from diethyl ether and petroleum ether then afforded 140 mg. (23% yield) of pure 4-diethylamino-1-ethyl-8-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. 135°-138° C.

reactant | 4-Chloro-1-ethyl-8-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline | 0.002 mole, 520 mg | ClC=1C=2N(C3=CC(=CC=C3N1)OC)C(=NN2)CC | C12H11ClN4O
reactant | diethylamine | 0.008 mole | C(C)NCC | C4H11N
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
product | 4-diethylamino-1-ethyl-8-methoxy-[1,2,4]triazolo[4,3-a]quinoxaline | 23% yield | C(C)N(C=1C=2N(C3=CC(=CC=C3N1)OC)C(=NN2)CC)CC | C16H21N5O
